US08604211B2
Preparation of 2-cyano-2-methyl-3-methylsulfanyl-propanoic acid
Ethyl 2-cyano-2-methyl-3-methylsulfanyl-propanoate (2.3 g, 12.3 mmol) was added to ice-cold sodium hydroxide (5 mL, 2N) under stirring. Methanol (10 mL) was added and the ice bath removed after an hour. After 45 minutes at room temperature, volatiles were removed under reduced pressure and the residue diluted with water (20 mL). Impurities were removed by ether extraction (2×30 mL). The aqueous layer was cooled in ice, acidified to pH 3 with dilute HCl and extracted with ethyl acetate (3×30 mL). Combined organic extracts were dried over MgSO4 and concentrated under reduced pressure to leave a brown gum. Yield 1.32 g (68%): IR (KBr thin film) 1735 cm−1; 1H NMR (400 MHz, CDCl3) δ 10.19 (br, 1H), 3.10 (d, J=14.2 Hz, 1H), 2.94 (d, J=13.9 Hz, 1H), 2.33 (s, 3H), 1.73 (s, 3H); 13C NMR (400 MHz, CDCl3) δ 173.33, 118.82, 45.86, 41.66, 23.05, 17.62.

reactant | Ethyl 2-cyano-2-methyl-3-methylsulfanyl-propanoate | 12.3 mmol, 2.3 g | C(#N)C(C(=O)OCC)(CSC)C | C8H13NO2S
reactant | KBr | [K+].[Br-]
solvent | Methanol | 10 mL | CO | CH4O
product | 2-cyano-2-methyl-3-methylsulfanyl-propanoic acid | C(#N)C(C(=O)O)(CSC)C | C6H9NO2S
